Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypertension and abdominal pain
 
Major Surgical or Invasive Procedure:
Abdominal CT (at OSH) and Liver MRI

 
History of Present Illness:
Patient is a ___ y/o female who presents to ___ with c/o 
abdominal pain.  In addition, patient's blood pressure was noted 
to be high with SBP > 200.  An abdominal ultrasound was 
completed which showed a liver mass which led to the performance 
of a CTA of the abdomen.  This not only confirmed a large liver 
mass but also revealed a small infrarenal aortic dissection.  
Patient was transferred to ___ for blood pressure management 
and further evaluation.
 
Past Medical History:
PMH: HTN, HLD, DM2, CAD s/p 2 stents ___ years ago (at ___), 
renal cell carcinoma

PSH: Cardiac stent x2, R renal ablation

 
Social History:
___
Family History:
Negative for family history of aneurysms
 
Physical Exam:
Vital Signs: 97.7  138/76  64  18  95%/RA
General: alert and oriented x 3, lying in bed, NAD
HEENT: normocephalic, skin anicteric, PERRL, MMM, neck with full 
ROM
CV: RRR
Lungs: breathing unlabored
Abdomen: soft, NTND
Extremities: + CSM
 
Pertinent Results:
___ 04:25AM BLOOD WBC-6.6 RBC-4.57 Hgb-12.1 Hct-37.1 
MCV-81* MCH-26.5 MCHC-32.6 RDW-13.2 RDWSD-38.5 Plt ___
___ 08:00PM BLOOD Neuts-76.8* Lymphs-14.1* Monos-6.2 
Eos-1.3 Baso-0.5 Im ___ AbsNeut-8.48* AbsLymp-1.55 
AbsMono-0.68 AbsEos-0.14 AbsBaso-0.06
___ 04:25AM BLOOD Plt ___
___ 04:25AM BLOOD Glucose-197* UreaN-19 Creat-0.8 Na-142 
K-4.2 Cl-103 HCO3-25 AnGap-14
___ 04:25AM BLOOD Calcium-8.7 Phos-3.0 Mg-2.0
 
Brief Hospital Course:
Patient was transferred to ___ from ___ for severe 
hypertension and evaluation of an infrarenal aortic dissection 
as well as, a liver mass found on an abdominal CTA.  This was 
performed after patient complained of severe right sided 
abdominal pain x 1 week.  She was admitted to the vascular 
surgery service and transferred to the ICU for strict blood 
pressure monitoring.  Her blood pressure was well controlled on 
esmolol and nicardipine drips.  She was easily transitioned to 
PO medications consisting of metoprolol and amlodipine, 
maintaining her SBP less than 140.  She was transferred to the 
vascular surgery floor on hospital day 2.  

Patient underwent and MRI of the liver w/ and w/o contrast, 
further demonstrating the size of the liver mass and possible 
renal mass.  Her PCP was contacted with the information on these 
findings and an appointment was made for follow-up. 

The imaging obtained during this hospitalization demonstrated a 
focal infrarenal aortic dissection.  There is no aneurysmal 
degeneration and there is good flow beyond this area to the 
iliac arteries.  She will require a follow up CTA and an 
appointment with vascular surgery in 6 months. In addition, she 
will need regular blood pressure checks and follow up of her new 
antihypertensive regimen with her PCP.

Patient denies any continuation of the abdominal or flank pain.  
She is tolerating a regular diet and is ambulating 
independently.  

Patient is discharged home with ___ services in stable 
condition.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 100 mg PO BID 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Simvastatin 40 mg PO QPM 
4. Glargine 44 Units Breakfast
Glargine 30 Units Bedtime
5. GlipiZIDE XL 15 mg PO DAILY 
6. azelastine unknown  nasal DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  azelastine 137 mcg nasal DAILY  
4.  Glargine 44 Units Breakfast
Glargine 30 Units Bedtime 
5.  Metoprolol Tartrate 50 mg PO BID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
6.  GlipiZIDE XL 15 mg PO DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
8.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Infrarenal aortic dissection,
Hypertension,
Liver mass,

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
It was a pleasure taking care of you during your hospitalization 
at ___.  You were admitted with abdominal pain and 
hypertension.  Pictures of your abdomen were taken which showed 
that you have a small abdominal aortic dissection, which is a 
weakness in the vessel wall.  At this time, it will just need to 
be watched for any changes over the next few months. 

In addition, you were found to have a liver mass for which you 
will require follow up with oncology.  Your PCP is aware of 
these findings and has scheduled an appointment with you to 
review your options for oncology referrals.

Your blood pressure was found to be very high when you arrived.  
You were admitted to the ICU for special intravenous medications 
to lower your blood pressure.  This was successful and you are 
now weaned down to blood pressure medications that you can take 
by mouth.  It will be very important for you to continue to take 
these medications and follow up with your PCP for blood pressure 
checks.

Please contact your PCP or go to the emergency department for 
any of the following symptoms:
Worsening or severe abdominal or back pain;
Headaches, dizziness, lightheadedness;
Chest pain, shortness of breath, heart palpitations.

 
Followup Instructions:
___